US05482949
Preparation of [6-(N-Phenylcarbamoyl)-2[4-(N-phenylcarbamoyl)phenyl]benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone.
3 g (5.9 mmol) of [6-hydroxy-2[4-hydroxyphenyl)benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone hydrochloride was suspended in 250 mL of anhydrous THF and 2 g (20 mmol) of triethylamine was added. The reaction mixture was stirred for 15 minutes at room temperature under nitrogen. 15 mL of phenylisocyanate was added and the reaction was allow to continue for 96 hours. An additional 5 mL of isocyanate was added. After a further 48 hours, the reaction mixture was filtered and evaporated to an oil, The oil was triturated with heptane and the liqiud decanted off. The oil was dissolved in chloroform and chromatographed (HPLC) on a silica gel column, eluted with a linear gradient of chloroform to chloroform-MeOH (19:1). The desired fractions were combined and evaporated to an oil to afford 3.31 g of the title compound.

reactant | [6-hydroxy-2[4-hydroxyphenyl)benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone hydrochloride | 5.9 mmol, 3 g | Cl.OC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=C(C=C2)O)C1
reactant | triethylamine | 20 mmol, 2 g | C(C)N(CC)CC | C6H15N
reactant | phenylisocyanate | 15 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | isocyanate | 5 mL | [N-]=C=O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | [6-(N-Phenylcarbamoyl)-2[4-(N-phenylcarbamoyl)phenyl]benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 3.31 g | C1(=CC=CC=C1)NC(=O)C=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=C(C=C2)C(NC2=CC=CC=C2)=O)C1 | C42H37N3O4S
